US06395733B1
(1H-Indazol-5-yl)-pyrido[3,4-d]pyrimidin-4-yl-amine
This product was prepared in 96% yield from 5-aminoindazole (1.1 eq.) and 4-chloropyrido[3,4-d]pyrimidine (1 eq.). MP 258° C.; LC-MS: 263 (MH+).

reactant | 5-aminoindazole | 1.1 eq. | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | 4-chloropyrido[3,4-d]pyrimidine | 1 eq. | ClC=1C2=C(N=CN1)C=NC=C2 | C7H4ClN3
product | (1H-Indazol-5-yl)-pyrido[3,4-d]pyrimidin-4-yl-amine | 96% yield | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC=C2 | C14H10N6
